// Generated for: spectre
// Generated on: Mar 29 13:40:04 2016
// Design library name: 563_final
// Design cell name: d_flop_test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: 563_final
// Cell name: d_flop
// View name: schematic
subckt d_flop D Q Q_bar clk clk_bar
    N10 (net15 clk_bar net16 0) ami06N w=1.2u l=600n as=1.8e-12 ad=1.8e-12 \
        ps=5.4u pd=5.4u m=1 region=sat
    N4 (D clk net7 0) ami06N w=1.2u l=600n as=1.8e-12 ad=1.8e-12 ps=5.4u \
        pd=5.4u m=1 region=sat
    N11 (Q clk net16 0) ami06N w=1.2u l=600n as=1.8e-12 ad=1.8e-12 ps=5.4u \
        pd=5.4u m=1 region=sat
    N5 (net15 clk_bar net7 0) ami06N w=1.2u l=600n as=1.8e-12 ad=1.8e-12 \
        ps=5.4u pd=5.4u m=1 region=sat
    N9 (Q Q_bar 0 0) ami06N w=1.2u l=600n as=1.8e-12 ad=1.8e-12 ps=5.4u \
        pd=5.4u m=1 region=sat
    N8 (Q_bar net16 0 0) ami06N w=1.2u l=600n as=1.8e-12 ad=1.8e-12 \
        ps=5.4u pd=5.4u m=1 region=sat
    N1 (net15 net10 0 0) ami06N w=1.2u l=600n as=1.8e-12 ad=1.8e-12 \
        ps=5.4u pd=5.4u m=1 region=sat
    N0 (net10 net7 0 0) ami06N w=1.2u l=600n as=1.8e-12 ad=1.8e-12 ps=5.4u \
        pd=5.4u m=1 region=sat
    P5 (Q Q_bar vdd! vdd!) ami06P w=1.2u l=600n as=1.8e-12 ad=1.8e-12 \
        ps=5.4u pd=5.4u m=1 region=sat
    P4 (Q_bar net16 vdd! vdd!) ami06P w=1.2u l=600n as=1.8e-12 ad=1.8e-12 \
        ps=5.4u pd=5.4u m=1 region=sat
    P1 (net15 net10 vdd! vdd!) ami06P w=1.2u l=600n as=1.8e-12 ad=1.8e-12 \
        ps=5.4u pd=5.4u m=1 region=sat
    P0 (net10 net7 vdd! vdd!) ami06P w=1.2u l=600n as=1.8e-12 ad=1.8e-12 \
        ps=5.4u pd=5.4u m=1 region=sat
ends d_flop
// End of subcircuit definition.

// Library name: 563_final
// Cell name: d_flop_test
// View name: schematic
I6 (net2 net5 net6 net3 net4) d_flop
V3 (net4 0) vsource type=pulse val0=0 val1=5 period=2u delay=1.25u \
        width=500.0n
V2 (net3 0) vsource type=pulse val0=0 val1=5 period=2u width=1u
V0 (net2 0) vsource type=pulse val0=0 val1=5 period=8u
V1 (vdd! 0) vsource type=dc dc=5
C1 (net5 0) capacitor c=100f m=1
C0 (net6 0) capacitor c=100f m=1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=20u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
